US07560558B2
2-Amino-pyridine-3-carbaldehyde (100 mg) and 2-bromo-1-p-tolyl-ethanone (174 mg) were suspended in a 5 N aqueous sodium hydroxide solution (0.6 ml), and the suspension was hermetically sealed and, in this state, was allowed to stand for 3 days. The reaction solution was neutralized with 10% hydrochloric acid, and the resultant precipitate was then collected by filtration and was washed with water and chloroform. The powder as the residue was dried under the reduced pressure to give 2-p-toluyl-[1,8]naphthyridin-3-ol (2 mg, yield 1%).

reactant | 2-Amino-pyridine-3-carbaldehyde | 100 mg | NC1=NC=CC=C1C=O | C6H6N2O
reactant | 2-bromo-1-p-tolyl-ethanone | 174 mg | BrCC(=O)C1=CC=C(C=C1)C | C9H9BrO
reactant | sodium hydroxide | 5 N, 0.6 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2-p-toluyl-[1,8]naphthyridin-3-ol | 2 mg, yield 1% | C1(=CC=C(C=C1)C1=NC2=NC=CC=C2C=C1O)C | C15H12N2O
